US05366972
c) 2-Chloro-N-(2-chloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide
Using a procedure analogous to that described in Example 1a, the carboxamide was prepared from 12.8 g of 3-amino-2-chloro-4-methyl pyridine, 15.8 g of 2-chloronicotinoyl chloride, 7.1 g of pyridine, 30 ml of cyclohexane and 60 ml of dioxane. After removal of the solvent, the product was dissolved in methylene chloride, washed with water and dried (sodium sulfate). After removal of the solvent, the residue was washed with ethyl acetate to give 1.2 g of the title compound, m.p. 193°-194° C.

reactant | 3-amino-2-chloro-4-methyl pyridine | 12.8 g | NC=1C(=NC=CC1C)Cl | C6H7ClN2
reactant | 2-chloronicotinoyl chloride | 15.8 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | pyridine | 7.1 g | N1=CC=CC=C1 | C5H5N
reactant | cyclohexane | 30 ml | C1CCCCC1 | C6H12
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-(2-chloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 1.2 g | ClC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)Cl | C12H9Cl2N3O
